US09227978B2
4-Chloro-2-methoxy-5-(2,2,2-trifluoroethyl)aniline
A mixture of 1-chloro-5-methoxy-4-nitro-2-(2,2,2-trifluoroethyl)benzene (1.2 g, 4.51 mmol), tin(II) chloride dehydrate (5.0 g, 22.5 mmol) in EtOH (20 mL) was stirred at reflux for 2 h. After cooled to RT, the reaction mixture was added saturated NaHCO3 solution to adjusted pH to 7-8 and then extracted with ethyl acetate. The organic layer washed with brine, dried over Na2SO4 and concentrated in vacuo to afford the desired product (900 mg, 85% yield). 1H NMR (400 MHz, DMSO-d6) δ: 7.29 (s, 1H), 7.11 (s, 1H), 5.41 (s, 2H), 4.21 (s, 3H), 3.99 (dd, J=1.7, 11.2 Hz, 2H).

reactant | 1-chloro-5-methoxy-4-nitro-2-(2,2,2-trifluoroethyl)benzene | 4.51 mmol, 1.2 g | ClC1=C(C=C(C(=C1)OC)[N+](=O)[O-])CC(F)(F)F | C9H7ClF3NO3
reactant | tin(II) chloride | [Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-Chloro-2-methoxy-5-(2,2,2-trifluoroethyl)aniline | 900 mg, 85% yield | ClC1=CC(=C(N)C=C1CC(F)(F)F)OC | C9H9ClF3NO
